US04430263
STI is dissolved in 50 ml of borate-saline buffer pH 8.5, to a concentration of 16 mg/ml (38 μmole). N-hydroxysuccinimide ester of N-acetyl thyroxine (378 μmole, 346 mg) is dissolved in 50 ml of DMF in a separate container. Aliquots (2 ml) of the active ester in DMF are added to the STI at 5 minute intervals until all the active ester has been added. The reaction mixture is stirred at room temperature for an additional 3.5 hours, then terminated by dialysis against 2 liters of aqueous triethylamine pH 11. Chromatography of the product on a Sephadex G-75 column (5×100 cm) equilibrated with aqueous triethylamine, pH 11 is then conducted to isolate thyroxine (T4) conjugated to soybean trypsin inhibitor from free T4. Fractions containing 1-2 molecules of thyroxine per molecule of protein are isolated as the preferred reagent. Higher substituted fractions were obtained, although operable, they were less preferable.

reactant | N-acetyl thyroxine | 378 μmole, 346 mg | C(C)(=O)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C17H13I4NO5
solvent | borate | 50 ml | B([O-])([O-])[O-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | thyroxine | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
